US08242145B2
Step 4: [5-(4-Bromo-2-formyl-phenoxy)-2-chloro-phenyl]-acetic acid ethyl ester
(2-Chloro-5-hydroxy-phenyl)-acetic acid ethyl ester (0.5 g, 2.3 mmol), 5-bromo-2-fluorobenzaldehyde (0.33 mL, 2.8 mmol), and potassium carbonate (0.5 g, 3.5 mmol) were combined in 1,4-dioxane (30 mL) and heated to 110° C. for 3 days. After work-up, the crude material was purified by silica gel chromatography (0-20% EtOAc in hexanes) to give the desired product (0.3 g).

reactant | (2-Chloro-5-hydroxy-phenyl)-acetic acid ethyl ester | 2.3 mmol, 0.5 g | C(C)OC(CC1=C(C=CC(=C1)O)Cl)=O | C10H11ClO3
reactant | 5-bromo-2-fluorobenzaldehyde | 2.8 mmol, 0.33 mL | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | potassium carbonate | 3.5 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [5-(4-Bromo-2-formyl-phenoxy)-2-chloro-phenyl]-acetic acid ethyl ester | 0.3 g | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)C=O)Cl)=O | C17H14BrClO4
